US04463005
A mixture of (2,2,2-trifluoroethyl)isothiocyanate (0.43 g.) and 4-(4-[4-aminopyrimid-2-yl]butyl)imidazole (0.35 g.) was heated under reflux in acetonitrile for 18 hours. It was then evaporated to dryness and the residue purified by medium pressure liquid chromatography using a mixture of CHCl3 /MeOH/aqueous ammonia (s.g. 0.880) 15:1:0.05 v/v/v) as eluant. The appropriate fraction was evaporated to dryness and the residue of the thiourea was dissolved in concentrated ethanolic ammonia (15 ml.) and mercuric oxide (0.2 g.) added. The resulting mixture was stirred at room temperature for 30 minutes, filtered and the filtrate evaporated to dryness. The residue was dissolved in EtOH (10 ml.), treated with a small amount of hydrogen sulphide gas, filtered and the filtrate evaporated to dryness. The residue was crystallised from acetonitrile to give 4-[4-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yl)butyl]imidazole (0.075 g.), m.p. 191°-193°.

reactant | (2,2,2-trifluoroethyl)isothiocyanate | 0.43 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 4-(4-[4-aminopyrimid-2-yl]butyl)imidazole | 0.35 g | NC1=NC(=NC=C1)CCCCC=1N=CNC1 | C11H15N5
reactant | acetonitrile | C(C)#N | C2H3N
product | 4-[4-(4-[2-(2,2,2-trifluoroethyl)guanidino]pyrimid-2-yl)butyl]imidazole | 0.075 g | FC(CN=C(NC1=NC(=NC=C1)CCCCC=1N=CNC1)N)(F)F | C14H18F3N7
